US20010056188A1
1) 2-(4-Chlorophenylsulfonyl)-3-(3,5-dichlorophenylamino)-3-methylsulfanyl-2-propenenitrile
To a solution of 4-chlorophenylsulfonylacetonitrile (1.00 g, 4.6 mmol) in dry acetone (10 ml) first dry potassium carbonate (1.28 g, 9.3 mmol) and then 3,5-dichlorophenyl isothiocyanate (0.99 g, 4.9 mmol) were added. The resulting mixture was stirred at room temperature under nitrogen for 4 h, and then filtered. To the filtrate methyl iodide (0.86 ml, 13.9 mmol) was added. The mixture was stirred at room temperature for 45 min. Then pH was adjusted to 1 with 1N aqueous HCl. The precipitate was filtered off and washed with water to give 1.86 g (93%) of a crude product. Recrystallisation from ethyl acetatelheptane (1:1) gave 1.42 g (72%) of the title compound contaminated with 4-chlorophenylsulfonylacetonitrile. Mp 128-131° C. 1H NMR (200 MHz, CDCl3): δ=2.25 (s, 3H), 7.20 (d, 2H), 7.30 (t, 1H), 7.55 (d, 2H), 7.85 (d, 2H), 9.80 (br s, 1H); EI SP/MS: 434 (M+), 436 (M+2).

reactant | 4-chlorophenylsulfonylacetonitrile | 4.6 mmol, 1.00 g | ClC1=CC=C(C=C1)S(=O)(=O)CC#N | C8H6ClNO2S
reactant | potassium carbonate | 9.3 mmol, 1.28 g | C([O-])([O-])=O.[K+].[K+]
reactant | 3,5-dichlorophenyl isothiocyanate | 4.9 mmol, 0.99 g | ClC=1C=C(C=C(C1)Cl)N=C=S | C7H3Cl2NS
reactant | methyl iodide | 13.9 mmol, 0.86 ml | CI | CH3I
reactant | HCl | 1N | Cl | ClH
solvent | acetone | 10 ml | CC(=O)C | C3H6O
product | 2-(4-Chlorophenylsulfonyl)-3-(3,5-dichlorophenylamino)-3-methylsulfanyl-2-propenenitrile | 1.42 g, 72% | ClC1=CC=C(C=C1)S(=O)(=O)C(C#N)=C(SC)NC1=CC(=CC(=C1)Cl)Cl | C16H11Cl3N2O2S2
